US09370522B2
The diaryl product was obtained using the same synthetic methods as shown in Example 25, step 5, using 2-(4-chlorophenyl)acetic acid (5 g, 29.2 mmol) and chlorobenzene (10.31 g, 91.2 mmol, 2.85 equiv) as reactants. The reaction was quenched by the addition of water/ice. The residue was dissolved in 3% HCl, extracted with 3×20 mL of dichloromethane, and the organic layers combined and concentrated under vacuum. Purification via silica gel column (ethyl acetate/petroleum ether (1:100)) yielded 4.63 g (54%) of 1,2-bis(4-chlorophenyl)ethanone as a white solid.

reactant | 2-(4-chlorophenyl)acetic acid | 29.2 mmol, 5 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | chlorobenzene | 91.2 mmol, 10.31 g, 2.85 equiv | ClC1=CC=CC=C1 | C6H5Cl
product | 1,2-bis(4-chlorophenyl)ethanone | 4.63 g, 54% | ClC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Cl)=O | C14H10Cl2O
